### PR TITLE
[wip] chore: use `order` where appropriate

### PR DESCRIPTION
**Pull request by euprunin**
---
Separated from the `aesop` cases for benchmarking reasons.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean [hunk 1]
```diff
@@ -892,8 +892,7 @@ instance empty [IsEmpty M] : IsManifold I n M := by
     _ = (e.symm.source) ∩ ∅ := by rw [preimage_empty]
     _ = ∅ := inter_empty e.symm.source
   have : t = ∅ := calc t
-    _ = I.symm ⁻¹' (e.symm ≫ₕ e').source ∩ range I := by
-      rw [← Subtype.preimage_val_eq_preimage_val_iff]
+    _ = I.symm ⁻¹' (e.symm ≫ₕ e').source ∩ range I := by order
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/Basic.lean]: To be honest, I'm not even sure how `order` manages to prove this. My initial reaction is "this is not clearer".

Perhaps you can tell me why this is wrong, but otherwise I'd rather revert this.

File: Mathlib/MeasureTheory/Integral/Bochner/VitaliCaratheodory.lean [hunk 2]
```diff
@@ -281,7 +281,7 @@ theorem exists_lt_lowerSemicontinuous_integral_gt_nnreal [SigmaFinite μ] (f : 
   refine ⟨g, f_lt_g, gcont, g_lt_top, ?_, ?_⟩
   · refine ⟨gcont.measurable.ennreal_toReal.aemeasurable.aestronglyMeasurable, ?_⟩
     simp only [hasFiniteIntegral_iff_norm, Real.norm_eq_abs, abs_of_nonneg ENNReal.toReal_nonneg]
-    convert gint_ne.lt_top using 1
+    order
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/Bochner/VitaliCaratheodory.lean:284]: Should this be `finiteness` instead?

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean [hunk 3]
```diff
@@ -544,7 +544,7 @@ theorem le_radius_cauchyPowerSeries (f : ℂ → E) (c : ℂ) (R : ℝ≥0) :
     exact mul_nonneg (inv_nonneg.2 Real.two_pi_pos.le)
       (intervalIntegral.integral_nonneg Real.two_pi_pos.le fun _ _ => norm_nonneg _)
   · rw [inv_pow]
-    have : (R : ℝ) ^ n ≠ 0 := by norm_cast at hR ⊢
+    have : (R : ℝ) ^ n ≠ 0 := by order
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/CircleIntegral.lean]: or this one positivity?

**Review by grunweg — COMMENTED** [review]
Thanks for trying out order more. With most changes here, I'm not sure if these should rather use a different tactic instead.

File: Mathlib/MeasureTheory/Integral/Bochner/VitaliCaratheodory.lean (hunk 2 above)
Comment (euprunin) [reply Mathlib/MeasureTheory/Integral/Bochner/VitaliCaratheodory.lean:284]: The goal state is `⊢ ∫⁻ (a : α), ENNReal.ofReal (g a).toReal ∂μ < ⊤` here.

`finiteness` (which uses `aesop`) does not work: `tactic 'aesop' failed, failed to prove the goal. Some goals were not explored because the maximum rule application depth (30) was reached.`

File: Mathlib/MeasureTheory/Integral/CircleIntegral.lean (hunk 3 above)
Comment (euprunin) [reply Mathlib/MeasureTheory/Integral/CircleIntegral.lean]: Thanks! `positivity` is better here. Now changed!

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/Geometry/Manifold/IsManifold/Basic.lean]: Thanks for reviewing! I've reverted this one.

Under the hood `order` is (was) doing:

```
Classical.byContradiction
  fun _order_neg_goal ↦ _order_neg_goal (le_antisymm (le_refl t) (le_refl t))
```

File: Mathlib/MeasureTheory/Integral/Bochner/VitaliCaratheodory.lean (hunk 2 above)
Comment (euprunin) [reply Mathlib/MeasureTheory/Integral/Bochner/VitaliCaratheodory.lean:284]: `order` is doing the following under the hood:

```
Decidable.byContradiction fun _order_neg_goal ↦
  gint_ne
    (le_antisymm (le_trans le_top (le_refl ⊤))
      (le_trans (Eq.mp not_lt._simp_1 _order_neg_goal)
        (le_trans (le_of_eq Ig) (le_refl (∫⁻ (x : α), g x ∂μ)))))
```

`grind [le_antisymm, le_top, not_lt]` solves it too.

Comment (euprunin) [reply Mathlib/MeasureTheory/Integral/Bochner/VitaliCaratheodory.lean:284]: I’m totally fine skipping this one, and any others that don’t really help readability. What do you think?

**Comment by leanprover-radar** [comment]
Benchmarking e2108e791478dda468e624f9b3ecc76c47aa1768 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/e2108e791478dda468e624f9b3ecc76c47aa1768)) against ee7453e8ed79ee81e4a51f6d6dda87349f371750 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/ee7453e8ed79ee81e4a51f6d6dda87349f371750)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>
